US04414225
1-Ethyl-4-chloro-5-cyano-2,3,6,7-tetrahydro-1H-azepine
7.1 gm (0.037 mol) of 4-chloro-5-cyano-2,3,6,7-tetrahydro-1H-azepine hydrochloride were dissolved in 170 ml of chloroform by addition of 28.5 ml of triethylamine. Then, 8.6 gm (0.055 mol)=4.9 ml of ethyl iodide were added dropwise at the boiling point, while stirring, and the mixture was refluxed for 4 hours. To complete the reaction, another 10 ml of triethylamine and 2.5 ml of ethyl iodide were added, and the mixture was boiled further. After a total of 10 hours the reaction was finished. After standing overnight, the mixture was concentrated by evaporation in vacuo. The residue was chromatographed on a silica-gel column (chloroform/methyl alcohol/ammonia=9:1:0.1). After the corresponding fractions had been concentrated by evaporation, the mixture was evaporated in vacuo.

reactant | 4-chloro-5-cyano-2,3,6,7-tetrahydro-1H-azepine hydrochloride | 0.037 mol, 7.1 gm | Cl.ClC=1CCNCCC1C#N
reactant | ethyl iodide | 4.9 ml | C(C)I | C2H5I
reactant | ethyl iodide | 2.5 ml | C(C)I | C2H5I
solvent | chloroform | 170 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 28.5 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
product | 1-Ethyl-4-chloro-5-cyano-2,3,6,7-tetrahydro-1H-azepine | C(C)N1CCC(=C(CC1)C#N)Cl | C9H13ClN2
